Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / venlafaxine
 
Attending: ___
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ y/o M with history significant for multiple 
sclerosis on glatiramer acetate (Copaxone) and hypertension who 
presented to an OSH with palpitations and was found to be in 
atrial fibrillation with rapid ventricular rate (RVR) and 
transferred to ___ for ongoing management. 
 
Per patient, he has recently been feeling unwell with night 
sweats, fatigue, weakness and dizziness and shortness of breath. 
Of note, he states that these symptoms are not unusual for him 
due to his MS and have been ___ for at least 6 months. On 
the night before admission, he noted chest palpitations and felt 
as though his "heart was beating out of his chest". He could not 
sleep and thus presented to the ED. He also notes an episode of 
chest pain one day prior to presentation which occurred at work. 
It lasted 5 minutes and went away on its own without 
intervention. At the OSH, EKG was significant for atrial 
fibrillation with RVR. Troponin was reportedly negative and he 
was started on a diltiazem gtt and transferred to ___ for 
further management.
 
Past Medical History:
-Hypertension
-Unexplained weight loss
-Joint pain
-Multiple Sclerosis - Right Ischemic optic neuritis 
 
Social History:
___
Family History:
Mother deceased at ___ with an MI, father deceased at ___ with MI. 
Sister with hypertension, hypothyroidism, and a brother with 
hypertension. His mother and sister have migraines.
 
Physical Exam:
On admission:
General: Alert, oriented middle aged white man in no acute 
distress
Vitals: T 97.6 BP 127/89 P 70 RR 18 SaO2 100% on RA
HEENT: NCAT
CV: irregular, no murmurs
Lungs: Clear to auscultation bilaterally--no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present  
GU: No Foley
Ext: Warm, well perfused, 2+ pulses; no clubbing, cyanosis or 
edema 

At discharge
General: Alert, oriented, no acute distress  
Vitals: Tm 98.4, BP 132/78 (125-132/78-82) P 68 (60-70) SaO2 96% 
on RA (96-98%)  
CV: rhythm now noted to be regular, no tachycardia; normal S1 
S2; no murmurs, rubs or gallops  
Lungs: Clear to auscultation bilaterally--no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present  
Ext: Warm, well perfused, 2+ DP pulses bilaterally; no clubbing, 
cyanosis or edema.
 
Pertinent Results:
___ 11:45AM   WBC-7.6 RBC-5.39 HGB-14.8 HCT-44.2 MCV-82 
MCH-27.5 MCHC-33.5 RDW-13.2 RDWSD-38.7
___ 11:45AM   PLT COUNT-164

___ 11:45AM   GLUCOSE-87 UREA N-22* CREAT-0.7 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-107 TOTAL CO2-23 ANION GAP-16
___ 11:45AM   CALCIUM-9.3 PHOSPHATE-2.7 MAGNESIUM-2.1

___ 11:45AM   CK(CPK)-141
___ 11:45AM   cTropnT-<0.01
___ 11:45AM   TSH-2.2

___ 05:55AM   WBC-6.1 RBC-4.85 Hgb-13.5* Hct-40.7 MCV-84 
MCH-27.8 MCHC-33.2 RDW-13.5 RDWSD-41.0 Plt ___
___ 05:55AM   ___ PTT-29.7 ___
___ 05:55AM   Glucose-97 UreaN-22* Creat-0.9 Na-139 K-3.8 
Cl-106 HCO3-25 AnGap-12
___ 05:55AM   ALT-13 AST-15 LD(LDH)-163 CK(CPK)-79 
AlkPhos-66 TotBili-0.5
___ 05:55AM   CK-MB-2 cTropnT-<0.01
___ 05:55AM   Albumin-3.9 Calcium-9.1 Phos-2.8 Mg-2.1

EKG #1 ___:
Atrial fibrillation with rapid ventricular response. Left axis 
deviation. Non-specific ST-T wave changes. Compared to the 
previous tracing of ___ atrial fibrillation is new. 

EKG #2 ___:
Artifact is present. Sinus rhythm. Left axis deviation. 
Non-specific ST-T wave changes. Compared to the previous tracing 
of the same day atrial fibrillation is no longer present. 

Echocardiogram ___:
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thicknesses and cavity size 
are normal. Regional left ventricular wall motion is normal. 
Overall left ventricular systolic function is low normal (LVEF 
50-55%). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion.
 
Brief Hospital Course:
___ y/o M with history significant for multiple sclerosis on 
Copaxone and hypertension who presented to an OSH with 
palpitations and was found to be in newly diagnosed atrial 
fibrillation with RVR and transferred to ___ for ongoing 
management.  

# Atrial fibrillation: New onset. In the ED, VR 143 with BP 
133/85. The patient was started on an diltiazem drip at 10 mg/hr 
with heart rates improving to 100s. He was then transitioned to 
PO diltizzem.  TTE showed no obvious structural cause of his 
arrhythmia. TSH was WNL. The patient was deemed medically stable 
for discharge on ___ and sent home on long-acting diltiazem 
120mg/day. His home lisinopril was stopped as his blood 
pressures were well-controlled with the new calcium channel 
blocker. His CHADS2 score was 1 (hypertension) and was continued 
on ASA 81 mg without additional anticoagulation.

# Multiple sclerosis: chronic. We did not have his home Copaxone 
during this admission as he only has it three times per week. We 
continued his home baclofen, ibuprofen, and oxcarbazepine  

# Hypertension: chronic. As above, we stopped his home 
lisinopril, as BPs were well-controlled with new diltiazem.

TRANSITIONAL ISSUES
- Patient to follow-up with ___ Cardiology as an outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Baclofen 10 mg PO QID:PRN muscle spasm 
2. Copaxone (glatiramer) 40 mg/mL subcutaneous 3X/WEEK 
3. Lisinopril 5 mg PO DAILY 
4. Oxcarbazepine 150 mg PO BID 
5. Aspirin 81 mg PO DAILY 
6. Vitamin D 5000 UNIT PO DAILY 
7. Magnesium Oxide 400 mg PO BID 
8. Ibuprofen 800 mg PO BID:PRN pain 
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Baclofen 10 mg PO QID:PRN muscle spasm 
3. Ibuprofen 800 mg PO BID:PRN pain 
4. Oxcarbazepine 150 mg PO BID 
5. Vitamin D 5000 UNIT PO DAILY 
6. Diltiazem Extended-Release 120 mg PO DAILY 
RX *diltiazem HCl 120 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
7. Copaxone (glatiramer) 40 mg/mL subcutaneous 3X/WEEK 
8. Magnesium Oxide 400 mg PO BID
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Atrial fibrillation with rapid ventricular rate
-Multiple sclerosis
-Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.  You were admitted 
because you developed a new abnormal electrical heart rhythm 
called atrial fibrillation.  Your heart rates were very fast so 
you were started on a new medication called diltiazem to control 
your heart rates.  Your electrical rhythm switched back to a 
normal electrical rhythm so you are currently not in atrial 
fibrillation.  You had an echocardiogram (TTE) which showed no 
cardiac etiology of your atrial fibrillation.  Your labs, 
including a thyroid function test, was normal.

Because of your history of atrial fibrillation, you will need to 
continue taking a baby aspirin.  

Please follow-up with your outpatient providers as instructed 
below.

Thank you so much for allowing us to participate in your care.  
Best wishes for your recovery.

Sincerely,
Your ___ medical team
 
Followup Instructions:
___